US04874773
Preparation of n-hexyl 2,6-dimethyl-3-isopropylaminocarbonyl-4-(o-nitrophenyl)-1,4-dihydropyridine-5-carboxylate:
o-Nitrobenzaldehyde (3.8 g, 0.025 mole), n-hexyl acetoacetate (4.6 g, 0.025 mole) and 3-aminocrotonic isopropylamide (3.5 g, 0.025 mole) are dissolved in ethanol (50 ml), and the mixture is refluxed for 8 hours. After the reaction, the solvent is distilled off under reduced pressure. The residue is dissolved in elution solvent [chloroform:carbon tetrachloride:ethyl formate:formic acid:ethanol (10:10:8:1:2)] (30 ml) and subjected to column chromatography [silica gel 60 Art. 9385 (Manufactured by Merck Co.), 300 g, φ40 mm×50 cm]. The fraction containing the desired compound is regulated to pH 10 with 28% aqueous ammonia, and the organic layer is separated, washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue is recrystallized from 80% ethanol to give the title compound (3.31 g, yield 29.9%) as yellow prisms, m.p. 175°-178° C.

reactant | o-Nitrobenzaldehyde | 0.025 mole, 3.8 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | n-hexyl acetoacetate | 0.025 mole, 4.6 g | C(CC(=O)C)(=O)OCCCCCC | C10H18O3
reactant | 3-aminocrotonic isopropylamide | 0.025 mole, 3.5 g | C(C)(C)NC(\C=C(\C)/N)=O | C7H14N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | n-hexyl 2,6-dimethyl-3-isopropylaminocarbonyl-4-(o-nitrophenyl)-1,4-dihydropyridine-5-carboxylate | 3.31 g, yield 29.9% | CC=1NC(=C(C(C1C(=O)NC(C)C)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCCCCCC)C | C24H33N3O5
